Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Headaches, vomiting
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ y/o M with lifestyle-controlled T2DM
who p/w headache, fevers, n/v, weakness for 6 days. 

Per history obtained in the ED,

6 days ago he started having had subjective fever, n/v, 
headache,
and dizziness. He works behind the hot food counter at a ___.
He notes that the day before sx started, he spilled raw chicken
juice on face and chest twice. Headache was diffuse, throbbing.
No photophobia, vision changes, neck stiffness. Had intermittent
diarrhea, loose and black but not tarry in color on ___.
Brown and less loose this AM. No sick contacts. Vomiting really
started on ___.   

Patient was seen in the ED on ___. Tmax 102, measured
in ED. Had an LP which was bland, not c/f meningitis. Was given
presumptive Dx of Lyme disease and sent home with PO doxycycline
x 3 wks. Knows to take doxy with food, otherwise has 
stomachache.

Felt better ___. From ___ on, his symptoms worsened. This
morning, he vomited over 20 times and they have all been a 
yellow
mucous color. Had throbbing headaches, abdominal cramping.
Headache has been his most consistent symptom. Has had reduced 
PO
intake. 

Denies chest pain/sob. No dysuria. No rashes, arthralgias. Has
not traveled recently, lives in ___. ___ wks ago visited
his parents, who live in a wooded area, played with dogs. 

Has hx of a "gagging tic" since he was ___. 

In the ED, initial vitals were: 
T 96.4 HR 74 BP 114/97 RR 19 SaO2 > 97% RA 

Exam was notable for:
- A&Ox3, diaphoretic
- neck tenderness
- abdomen soft, non-tender 

Labs were notable for: (use specific numbers)
- CBC 7.1 > 14.3 < 228 
- CMP AG 19, BUN/Cr = ___
- lactate 1.9
- lipase 31

Studies were notable for: 
- CTh w/o contrast no acute intracranial abnl

The patient was given:
- 2L NS 
- Zofran, prochlorperazine 10mg, diphenhydramine 50mg
- acetaminophen 650mg 

Consults: none

On arrival to floor, headache and nausea had resolved. Able to
tolerate ___ sandwich for dinner. 

 
Past Medical History:
ADHD 
elbow and shoulder tendonitis 
H/o T2DM, diet-controlled 
 
Social History:
___
Family History:
Does not know. Was adopted from ___ as a child. 
 
Physical Exam:
ADMISSION EXAM:
========================
VITALS: T afebrile HR ___ BP 110s/90s SaO2 > 95% RA 
GENERAL: Alert and interactive. NAD. 
HEENT: PERRL, EOMI. MMM.
CARDIAC: RRR. Audible S1 and S2. No murmurs/rubs/gallops.
LUNGS: CTAB. No wheezes, rhonchi or rales. No increased work of
breathing.
ABDOMEN: Normal bowels sounds, non distended, non tender, neg
___ no rebound/guarding
EXTREMITIES: No edema. Pulses DP/Radial 2+ bilaterally. 
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. Moving all 4 limbs spontaneously. Normal
sensation.

DISCHARGE EXAM:
=========================
T:97.8 PO BP:104/64 HR:72 RR:18 O2:97 Ra 
GENERAL: Alert and interactive. NAD. 
HEENT: PERRL, EOMI. MMM.
CARDIAC: RRR. Audible S1 and S2. No murmurs/rubs/gallops.
LUNGS: CTAB. No wheezes, rhonchi or rales. No increased work of
breathing.
ABDOMEN: Normal bowels sounds, non distended, non tender, neg
___ no rebound/guarding
EXTREMITIES: No edema. Pulses DP/Radial 2+ bilaterally. 
SKIN: Warm. No rashes.
NEUROLOGIC: AOx3. Moving all 4 limbs spontaneously. Normal
sensation.
 
Pertinent Results:
ADMISSION LABS
======================
___ 11:00AM BLOOD WBC-7.1 RBC-5.07 Hgb-14.3 Hct-42.8 MCV-84 
MCH-28.2 MCHC-33.4 RDW-13.5 RDWSD-41.7 Plt ___
___ 11:00AM BLOOD Neuts-84* Lymphs-12* Monos-3* Eos-0* 
Baso-0 Atyps-1* AbsNeut-5.96 AbsLymp-0.92* AbsMono-0.21 
AbsEos-0.00* AbsBaso-0.00*
___ 11:00AM BLOOD Plt Smr-NORMAL Plt ___
___ 11:00AM BLOOD Glucose-155* UreaN-20 Creat-0.8 Na-141 
K-4.5 Cl-104 HCO3-19* AnGap-18
___ 11:00AM BLOOD ALT-82* AST-69* AlkPhos-175* TotBili-0.4
___ 11:00AM BLOOD Lipase-31
___ 11:00AM BLOOD Albumin-4.2
___ 11:19AM BLOOD Lactate-1.9

PERTINENT LABS
======================
NONE

DISCHARGE LABS
======================
___ 04:40AM BLOOD WBC-7.1 RBC-4.61 Hgb-12.9* Hct-39.6* 
MCV-86 MCH-28.0 MCHC-32.6 RDW-13.9 RDWSD-43.2 Plt ___
___ 04:40AM BLOOD Plt ___
___ 04:40AM BLOOD Glucose-100 UreaN-13 Creat-0.8 Na-144 
K-4.2 Cl-106 HCO3-22 AnGap-16
___ 04:40AM BLOOD ALT-86* AST-76* AlkPhos-138* TotBili-0.4
___ 04:40AM BLOOD Calcium-8.8 Phos-3.6 Mg-2.3 Iron-182*
___ 04:40AM BLOOD calTIBC-269 Ferritn-865* TRF-207
___ 04:40AM BLOOD HCV Ab-NEG
___ 04:40AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG

STUDIES
======================
___ CT HEAD
IMPRESSION:  
No acute intracranial abnormality. 

___ RUQUS
IMPRESSION:  
Normal hepatic parenchyma.  No evidence of cholecystitis. 

MICROBIOLOGY
======================
___ 7:40 pm URINE

   URINE CULTURE (Pending): 

 
Brief Hospital Course:
SUMMARY
======================
Mr. ___ is ___ male with lifestyle-controlled T2DM 
who presented with 7 days of headache, fever, nausea/vomiting, 
and general malaise. Notably he previously presented to ___ ED 
on ___, underwent a LP with normal results, and was prescribed 
doxycycline for presumed tick-borne illness that patient has 
been taking. Mr. ___ improved on this admission after 
being provided with IV fluids and medications for nausea and 
headache and was stable at time of discharge. 

TRANSITIONAL ISSUES:
====================
For PCP:
[] Please ensure he completed full course of doxycycline for 21 
days 
[] Please follow-up elevated LFTs with repeat labs in 1 week 
[] He had elevated ferritin. Please follow-up iron studies given 
concern for potential hemochromatosis in the setting of 
tranaminitis 
[] F/u final anaplasma titers 

Code status: Full
Contact: None 

ACUTE/ACTIVE ISSUES:
====================
#Fevers
#Nausea 
#Headache 
#Diarrhea 
Mr. ___ had presented with combination of nausea, 
diarrhea, and diffuse headache on ___. Predominant symptom was 
throbbing headache. He was worked up for meningitis/Lyme. He had 
negative lumbar puncture and was sent home on doxycycline for 
presumed Lyme disease. Given history of visiting parents in 
wooded area, anaplasma and lyme serologies were ordered, 
although patient did not have rash, anemia, or thrombocytopenia. 
Lyme is very unlikely with no rash, no arthralgias however he 
should complete course. While patient had transaminitis, 
___ was negative and there was no abdominal pain that 
correlated with eating. Hence, biliary colic or cholecystitis 
was very unlikely. This was most likely viral/bacterial 
gastroenteritis that appeared to be self-resolving by day 7. 
Supportive treatments including IV fluids and Zofran were used 
during this admission with good effect. He was discharged to 
finish 21 day course of doxycycline and new anti-emetic with 
follow-up at PCP ___ 1 week. 

#Mild transaminitis
Patient was found to have mild transaminitis, likely in the 
setting of viral illness vs NAFLD given history of obesity/T2DM. 
HepB serology, hepC antibody and viral load, and ferritin were 
checked with results still pending at time of discharge. RUQ 
ultrasound performed on ___ was normal. If transaminitis was 
not his baseline, LFTs should be repeated in 6 months as 
outpatient. 

#Anion gap metabolic acidosis, likely ketosis 
Patient had ketones on U/A on ___ ED visit and was encouraged 
to increase PO intake. He had normal HCO3 upon discharge.

CHRONIC/STABLE ISSUES:
======================
#History of T2DM, diet-controlled
Mr. ___ was previously on metformin and insulin for T2DM 
and sees Endocrinology once a year. He lost 100 lbs with 
lifestyle changes and is no longer on meds. His last A1c 5.9% 
___ and is due to see PCP this week. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Doxycycline Hyclate 100 mg PO Q12H 

 
Discharge Medications:
1.  Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 
Duration: 5 Days 
RX *ondansetron 4 mg 1 tablet(s) by mouth 3 times per day Disp 
#*16 Tablet Refills:*0 
2.  Doxycycline Hyclate 100 mg PO Q12H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=====================
Gastroenteritis

SECONDARY DIAGNOSIS
=====================
Transaminitis
T2DM

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
 
It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted for various symptoms including headache, 
nausea, and vomiting. 
 
What was done for me while I was in the hospital?  
- We gave you IV fluids to help with hydration.
- We gave you medications to help with your headache and nausea.
- We performed an ultrasound on your abdomen because you had 
mildly elevated enzymes of the liver. This imaging was normal. 

What should I do when I leave the hospital?  
- You will have anti-nausea medication to take as you need it. 
Take it 30 minutes prior to your doxycycline dose.
- Continue taking the antibiotic doxycycline as prescribed.
- You will have a follow-up appointment with your primary care 
physician. Please attend this appointment.
- Try to avoid foods that can be upset the stomach e.g. dairy, 
spicy and fatty foods.
- You may take ibuprofen for headaches. 
- If your symptoms are not improving or worsening, please reach 
out to your healthcare provider.
 
We wish you all the best!
 
Your ___ Care Team  

 
Followup Instructions:
___